US06737425B1
46-1) 2-(2-Cyanophenoxy)ethylpiperazine
1-Formyl-4-(2-hydroxyethyl)piperazine (4.95 g) was dissolved in tetrahydrofuran (100 ml), then triphenyl phosphine (10.14 g) and 2-cyanophenol (3.57 g) were added thereto, and 40% azodicarboxylic acid diethyl ester/toluene solution (13.5 ml) was added dropwise thereto, and the title compound (1.60 g) was obtained in the same manner as in Example 47-1).

reactant | 1-Formyl-4-(2-hydroxyethyl)piperazine | 4.95 g | C(=O)N1CCN(CC1)CCO | C7H14N2O2
reactant | triphenyl phosphine | 10.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-cyanophenol | 3.57 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | azodicarboxylic acid diethyl ester toluene | 13.5 ml | C(C)OC(=O)N=NC(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-Cyanophenoxy)ethylpiperazine | 1.60 g | C(#N)C1=C(OCCN2CCNCC2)C=CC=C1 | C13H17N3O
